US06384057B1
A mixture of 2-hydroxyacetophenone on Wang resin (2.0 g, 1.76 mmol) was swelled in trimethyl orthoformate (20 mL) for 10 min. 3,4-Methylenedioxybenzaldehyde (6.0 mmol) was added and 25% NaOMe in MeOH (0.86 g, 4.0 mmol) was added to the mixture dropwise over 30 min. The mixture was then stirred for an additional 0.5 h. The resin was filtered and washed with alternating MeOH and CH2Cl2 (×5) and dried under high vacuum overnight to give 2.23 g of 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-propen-1-one on Wang resin.

reactant | 2-hydroxyacetophenone | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | 3,4-Methylenedioxybenzaldehyde | 6.0 mmol | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 4.0 mmol, 0.86 g | CO | CH4O
solvent | trimethyl orthoformate | 20 mL | C(OC)(OC)OC | C4H10O3
product | 1-(2-hydroxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-propen-1-one | 2.23 g | OC1=C(C=CC=C1)C(C=CC1=CC2=C(C=C1)OCO2)=O | C16H12O4
